US05691323
A mixture of 0.10 g of trans-1,3-dihydro-1-{4-(1-piperazinyl)-1-cyclohexyl}-2H-benzimidazol-2-one, 0.037 mL of 3-pyridinecarboxaldehyde, 15 mL of 1,2-dichloroethane, 0.10 mL of glacial acetic acid and 0.11 g of sodium triacetoxyborohydride was stirred at room temperature for 24 h. The reaction mixture was poured into 10 mL dichloromethane and 10 mL saturated aqueous NaHCO3 and the layers separated. The aqueous layer was extracted with 2×10 mL of dichloromethane and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Preparative thin layer chromatography on silica gel, eluting with 90:10:2 chloroform: methanol: conc. NH4 OH gave 0.050 g of trans-1,3-dihydro-1-{4-[4-(3-pyridinylmethyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: mp=250° C.; 1H NMR (400 MHz, CDCl3) 9.71 (br s, 1H), 8.54 (dd, 2H), 7.68 (d, J=7.9, 1H), 7.26 (t, 1H), 7.15-7.02 (m, 4H), 4.26 (m, 1H), 3.54 (s, 2H), 2.66 (br dd, 4H), 2.27 (q, 2H), 2.10 (d, 2H), 1.97 (d, 2H), 1.92 (q, 2H): Analysis calculated for C23H29N5O.0.45 CHCl3C: 63.25, H: 6.67, N: 15.73 found C: 62.96, H: 6.74, N: 15.54.

reactant | trans-1,3-dihydro-1-{4-(1-piperazinyl)-1-cyclohexyl}-2H-benzimidazol-2-one | 0.10 g | N1(CCNCC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
reactant | 3-pyridinecarboxaldehyde | 0.037 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.10 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | trans-1,3-dihydro-1-{4-[4-(3-pyridinylmethyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.050 g | N1=CC(=CC=C1)CN1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C23H29N5O
